* UTIL-01 channel 1: does it do what docs/modules/attenuverter/SPEC.md says?
*
* The claim under test, from SPEC.md: "With R_a = R_f the non-inverting gain
* is 2, so Vout = (2k - 1) * Vin, k = pot fraction. Fully anticlockwise -1x,
* centre 0, fully clockwise +1x."
*
* Input patched (the jack's normalling switch open), output unloaded, both
* supplies nominal.
*
* Tolerance: 25 mV. The op-amp's 3 mV input offset appears at the output
* multiplied by the noise gain of 2, so 6 mV is expected and unavoidable;
* the rest is headroom for the finite open-loop gain. A tighter bound would
* be asserting the model rather than the circuit.

.include modules/_models/devices.lib
.include modules/attenuverter/sim/attenuverter.cir

Vpos P12_RAW 0 DC 12
Vneg N12_RAW 0 DC -12
Vsig IN1 0 DC 5

.control
alterparam norm_J1 = 1G
set fails = 0
foreach kk 0 0.25 0.5 0.75 1
  alterparam k_RV1 = $kk
  reset
  op
  let want = (2 * $kk - 1) * 5
  let got = v(OUT1)
  let err = abs(got - want)
  if err < 0.025
    echo "PASS  transfer k=$kk"
  else
    echo "FAIL  transfer k=$kk"
    print want got err
  end
end
.endc
.end
